Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Allergies/ADRs on File
 
Attending: ___.
 
Chief Complaint:
Chest pain
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
This is a ___ year old male with PMHx (per patient) 4V CABG, 
high-grade CAD on recent cath at ___ of tonsil s/p 
radiation, Alcohol abuse, intermittent crack cocaine abuse, 
presenting with chest pain. The patient reports that he has been 
binging on alcohol more than usual since ___ and has since 
used crack cocaine. His most recent drink and use of cocaine was 
___ afternoon. He reports that he started to walk to the 
hospital today to detox and started experiencing exertional 
chest pain on the way. He had several episodes on his way here 
which he described as a tight, pressure-like pain. He denies any 
radiation to his arm or jaw, denies diaphoresis, palpitations, 
SOB. He also reports that he has been falling more lately, which 
he attributes to chronic knee instability. He fell today and his 
the left side of his head, denies LOC. Denies history of alcohol 
withdrawal seizures.  
In the ED, initial vitals were: 96.6 114 93/56 18 95% RA  
- Labs were significant for: Trops x 2 negative  
- EKG: difficult to interpret due to unstable baseline, 
tachycardic, possible old infarct, non-specific ST flattening in 
alteral leads  
- Imaging revealed:  
- CT C spine: Minimal loss of height of the C4 and C5 vertebral 
bodies of indeterminate age, but felt unlikely acute. Correlate 
with site of point tenderness. No evidence of acute fracture 
seen elsewhere. Minimal retrolisthesis of C4 over C5.  
- CT Head: No acute intracranial process. No acute fracture. 
Lacunar infarcts involving the right basal ganglia and the left 
aspect of the pons.  
- CXR: Patchy right upper lobe opacity could relate to scarring, 
however, focal consolidation due to infection is not excluded. 
Recommend comparison with prior studies to demonstrate long-term 
stability or followup to resolution.  
- The patient was given: Aspirin 324 mg  
- Vitals prior to transfer were: 98.1 87 151/84 18 96% RA  
Upon arrival to the floor, patient denies chest pain. He reports 
that he feels comfortable and wants to get some sleep.  
REVIEW OF SYSTEMS:  
(+) Per HPI  
(-) Denies fever, chills, night sweats, recent weight loss or 
gain. Denies headache, sinus tenderness, rhinorrhea or 
congestion. Denies cough, shortness of breath. Denies nausea, 
vomiting, diarrhea, constipation or abdominal pain. No recent 
change in bowel or bladder habits
 
Past Medical History:
4V CABG  
SCC of tonsil s/p radiation  
Alcohol abuse  
Intermittent crack cocaine abuse
 
Social History:
___
Family History:
Denies family history of premature CAD, stroke
 
Physical Exam:
ADMISSION EXAM
Vitals: 98.5 175/92 94 18 95% RA  
General: Alert, oriented, no acute distress, laying comfortably 
in bed  
HEENT: Sclera anicteric, MMM, oropharynx clear, EOMI  
Neck: Supple, JVP not elevated, no LAD  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding  
GU: No foley  
Ext: Clammy, Warm, well perfused, 2+ pulses, no clubbing, 
cyanosis or edema  
Neuro: ___ strength upper/lower extremities, grossly normal 
sensation

DISCHARGE EXAM
VS: T=98.5 BP=175/92 on arrival, 134/79 this morning ___ 
RR=18 O2 sat=95-96% on RA 
GENERAL: Well-nourished caucasian male in NAD. Alert, Oriented 
x3. Mood, affect appropriate. Resting in bed comfortably.
HEENT: Sclera anicteric. Conjunctiva were pink, no pallor or 
cyanosis of the oral mucosa. MMM.  
NECK: Supple without JVP elevation.  
CARDIAC: RRR, normal S1, S2. No murmurs/rubs/gallops.
LUNGS: CTAB, normal resp effort, no wheezes or crackles
ABDOMEN: Soft, NTND. No HSM or tenderness. +BS
EXTREMITIES: Warm, well perfused, no edema
NEURO: Moving all extremities, no gross focal deficits
 
Pertinent Results:
LABS ON ADMISSION
___ 09:10AM BLOOD WBC-7.3 RBC-4.46* Hgb-14.7 Hct-42.9 
MCV-96 MCH-33.0* MCHC-34.3 RDW-13.6 RDWSD-48.3* Plt ___
___ 05:40PM BLOOD Glucose-144* UreaN-7 Creat-0.8 Na-133 
K-3.8 Cl-93* HCO3-19* AnGap-25*
___ 12:00AM BLOOD cTropnT-<0.01
___ 05:40PM BLOOD cTropnT-<0.01
___ 09:10AM BLOOD Calcium-9.5 Phos-3.2 Mg-2.0

LABS ON DISCHARGE
___ 09:10AM BLOOD Glucose-87 UreaN-9 Creat-0.7 Na-134 K-4.0 
Cl-95* HCO3-25 AnGap-18

IMAGING/REPORTS
CT C-spine w/o contrast (___): Minimal loss of height of the C4 
and C5 vertebral bodies of indeterminate age, but felt unlikely 
acute.  Correlate with site of point tenderness.  No evidence of 
acute fracture seen elsewhere.  Minimal retrolisthesis of C4 
over C5. 

CT head w/o contrast (___): No acute intracranial process.  No 
acute fracture seen. Lacunar infarcts involving the right basal 
ganglia and the left aspect of the pons.

CXR (___): Patchy right upper lobe opacity could relate to 
scarring, however, focal consolidation due to infection is not 
excluded.  Recommend comparison with prior studies to 
demonstrate long-term stability or followup to resolution.
  

 
Brief Hospital Course:
___ y/o M with a h/o CAD s/p CABG, high-grade CAD on recent cath 
at ___ ___, ___ of tonsil s/p radiation, alcohol abuse and 
crack cocaine abuse, presenting with chest pain in the setting 
of recent cocaine and alcohol use.

ACTIVE PROBLEMS
# Chest pain: In ED concern for stable angina in the setting of 
CAD and recent cocaine use. Chest pain free since admission, 
feels well the morning after admission with no further pain, no 
dyspnea, no new symptoms. EKG without definite ischemic change, 
and troponins were negative x2. Anion gap was 19 on admission, 
but gap had closed as of the morning. His Atenolol was increased 
from 25mg to 50mg, and he was continued on daily ASA 81mg. Due 
to the negative troponins, lack of EKG changes, and resolution 
of symptoms, he was determined to be safe for discharge and for 
him to continue his plan of going to a Detox center.

# HTN: Systolic BP 170's on arrival to floor, 130's the morning 
after admission. Only home medication is Atenolol 25mg, which 
was increased to 50mg.

# Polysubstance abuse: Patient was planning on going to detox, 
but developed the chest pain and went to the hospital instead. 
Recent cocaine and EtOH abuse, potentially contributing to Chest 
pain and elevated BP's on admission. Social work was consulted, 
and provided Mr. ___ with a list of places where he could go 
for detox. While in-hospital he was kept on the CIWA protocol, 
with Diazepam PRN for CIWA over 10, which was not needed.

CHRONIC PROBLEMS
# Chronic pain: continued home tramadol 50mg Q8 PRN

# HLD: continued home simvastatin 40mg

# Insomnia: continued home trazodone 150mg qhs

TRANSITIONAL ISSUES
- Patient instructed to set-up f/u appointment with PCP at the 
___ 1 week after discharge.
- Patient provided with list of detox centers at discharge 
- Home atenolol increased to 50 mg daily (home dose was 25 mg 
daily)
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atenolol 25 mg PO DAILY 
2. Simvastatin 40 mg PO QPM 
3. TraMADOL (Ultram) 50 mg PO Q8H:PRN pain 
4. TraZODone 150 mg PO QHS 
5. Aspirin 81 mg PO DAILY 

 
Discharge Medications:
1. Aspirin 81 mg PO DAILY 
2. Atenolol 50 mg PO DAILY 
RX *atenolol 50 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0
3. Simvastatin 40 mg PO QPM 
4. TraMADOL (Ultram) 50 mg PO Q8H:PRN pain 
5. TraZODone 150 mg PO QHS 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
atypical chest pain

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure participating in your care at ___. You were 
admitted to our hospital after developing chest pain following 
the use of cocaine and alcohol. All the testing that was done 
came back OK, and showed no signs of any damage to your heart.

You were seen by our social worker here and provided with a list 
of detox centers.

Please follow-up with your outpatient providers as instructed 
below.

Thank your for allowing us to participate in your care.

All best wishes,
Your ___ medical team
 
Followup Instructions:
___